US05703087
A solution of 2-benzyloxyethylamine (25 g) and potassium carbonate (50 g) in dichloromethane (500 ml) was treated dropwise with methyl chlorooxoacetate (25 g) at 0° C. After stirring for 3 h at room temperature, the mixture was washed with aq. sodium bicarbonate and dried over magnesium sulfate. Removal of solvent in vacuo gave methyl (2-benzyloxyethyl)aminooxoacetate as an oil. Yield: 40 g. The oil was dissolved in tetrahydrofuran, conc. aq. ammonia (500 ml) was added followed by reflux for 1/2 h. After cooling, the phases were separated, the aqueous phase was extracted with dichloromethane, and the combined organic phases were dried over magnesium sulfate. Removal of the solvent gave 4a as a crystalline material. Yield: 32 g.

reactant | 2-benzyloxyethylamine | 25 g | C(C1=CC=CC=C1)OCCN | C9H13NO
reactant | potassium carbonate | 50 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl chlorooxoacetate | 25 g | ClC(C(=O)OC)=O | C3H3ClO3
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | methyl (2-benzyloxyethyl)aminooxoacetate | C(C1=CC=CC=C1)OCCNC(C(=O)OC)=O | C12H15NO4
